*************************************************
* CMOS Inverter – DC ANALYSIS
*************************************************

.global Gnd

VDD vdd Gnd 1.8
VIN in  Gnd 0

CL out Gnd 10f

M1000 out in vdd vdd pfet w=10u l=3u
M1001 out in Gnd Gnd nfet w=8u  l=3u

.model nfet nmos level=1
.model pfet pmos level=1

.measure dc VOH MAX v(out)
.measure dc VOL MIN v(out)
.measure dc VM  FIND v(in) WHEN v(out)=v(in)

.control
dc VIN 0 1.8 0.001
wrdata vtc.dat v(in) v(out)
.endc

.end
